US05202407
A. Preparation of ethyltri-o-tolyl phosphonium iodide catalyst
Into a 50 milliliter glass reactor equipped with a thermometer connected to a temperature controller, a heating mantle, a condenser and a magnetic stirring bar, is charged 5 gms (0.0164 mole) of tri-o-tolyl phosphine and 23 gms of toluene. The slurry is heated to 27° C. then 3.08 gms (0.0197 mole) of ethyl iodide is added. This reaction mass is heated to 70° C. and maintained for 15 hour,s then cooled to 26° C. and the resulting phosphonium salt collected by filtration. The salt is washed with 6 gms of toluene then vacuum dried. There is obtained 1.6 gms of catalyst which has a melting point of 247°-250° C. and a chemical shift of 28.5 ppm (phosphoric acid reference).

reactant | tri-o-tolyl phosphine | 0.0164 mole, 5 gms | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | ethyl iodide | 0.0197 mole, 3.08 gms | C(C)I | C2H5I
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | toluene | 23 gms | C1(=CC=CC=C1)C | C7H8
product | ethyltri-o-tolyl phosphonium iodide | [I-].C(C)[P+](C1=C(C=CC=C1)C)(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | InChI=1S/C23H26P.HI/c1-5-24(21-15-9-6-12-18(21)2,22-16-10-7-13-19(22)3)23-17-11-8-14-20(23)4;/h6-17H,5H2,1-4H3;1H/q+1;/p-1
